US07091220B2
Acetic Acid 3-(dimethylaminophenylmethyl)-1H-indol-4-yl Ester
The preparation was carried out in accordance with general synthesis instructions 4 from acetic acid 1H-indol-4-yl ester and benzylidene-dimethyl-ammonium chloride, which had been prepared in accordance with example 1.

reactant | acetic acid 1H-indol-4-yl ester | N1C=CC2=C(C=CC=C12)OC(C)=O | C10H9NO2
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | Acetic Acid 3-(dimethylaminophenylmethyl)-1H-indol-4-yl Ester | CN(C)C(C1=CNC2=CC=CC(=C12)OC(C)=O)C1=CC=CC=C1 | C19H20N2O2
